### PR TITLE
Markov Categories

### PR DESCRIPTION
**Pull request by damast93**
This pull request contains the basic development of [Markov categories](https://arxiv.org/abs/1908.07021). The contents are
- Definition of Markov categories
- Determinism and univalence
- Almost sure equality of morphisms
- Information Flow axioms (positivity and causality)
- Conditionals, Bayesian inversion
- States, probability spaces, couplings

Joint work with @nmvdw 

I also made some edits to the _CoqProject file to make compilation work with VSCode/VSCoq extension.

### CODE REVIEW

File: _CoqProject [hunk 1]
```diff
@@ -0,0 +1,9 @@
+-R UniMath
```
Comment (benediktahrens) [inline _CoqProject:1]: I believe it should be `-Q` instead of `-R`. @rmatthes : do you know more?

File: UniMath/CategoryTheory/MarkovCategories/Univalence.v [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+
+A  notion of univalence for symmetric monoidal categories that supply some structure
+given by a PROP is given in Example 13.2 in "The Univalence Principle" by Ahrens,
+North, Shulman and Tsementzis. The indiscernibilities are isomorphism that commute with
+the PROP structure. For Markov categories, this means isomorphisms that commute with
+both the copy and delete map. Since commutation with the delete map is automatic (the
+delete morphism lands in the terminal object), indiscernibilities are given by
+isomorphisms that commute with the copy map. Deterministic isomorphisms are exactly
+those isomorphisms that satisfy that property. Hence, univalence for Markov categories
+should be defined using deterministic isomorphisms.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/MarkovCategories/Univalence.v:22]: Interesting! From a very superficial reading, this sounds right.

**Review by benediktahrens — APPROVED** [review]

File: UniMath/CategoryTheory/MarkovCategories/ProbabilitySpaces.v [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+- the objects are states (X,p) (i.e. objects equipped with a probability distribution)
+  * this is definitionally the same as the type [state C] of `State.v`
+  * it is also definitionally the same as the type of objects of the slice category I/C
+- morphisms f : (X,p) --> (Y,q) are p-almost sure equivalence classes of morphisms f : X --> Y
+  which preserve the state (i.e. pf = q)
+
+To construct this category, we use the quotient construction [mor_quot_category] of
+the slice category I/C under the congruence relation given by almost-sure equality.
+
+TODO:
```
Comment (nmvdw) [inline UniMath/CategoryTheory/MarkovCategories/ProbabilitySpaces.v:14]:
```suggestion
The following theorems need to be added to this file: 
```

File: UniMath/CategoryTheory/MarkovCategories/ProbabilitySpaces.v [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+          (causality : is_causal C).
+  
+  Definition states_cat : category.
+  Proof.
+    use coslice_cat.
+    + exact C.
+    + exact I_{C}.
+  Defined.
+
+  (* states are definitionally the same as objects of states_cat *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/MarkovCategories/ProbabilitySpaces.v:55]:
```suggestion
  (**
  In the next definition we use that states are definitionally the same as objects of states_cat.
  If that was not the case, that definition would not type check.
   *)
```

File: UniMath/CategoryTheory/MarkovCategories/Couplings.v [hunk 5]
```diff
@@ -0,0 +1,531 @@
...
+  Proof.
+    intros x y.
+    use isaset_total2.
+    - apply homset_property.
+    - intro f.
+      apply isasetaprop.
+      use isapropdirprod ; apply homset_property. 
+  Qed.
+
+  Definition couplings
```
Comment (nmvdw) [inline UniMath/CategoryTheory/MarkovCategories/Couplings.v:523]: Do you think `cat_of_couplings` might be a better bane?

File: UniMath/CategoryTheory/MarkovCategories/Conditionals.v [hunk 6]
```diff
@@ -0,0 +1,412 @@
...
+    rewrite !pairing_sym_mon_braiding.
+    rewrite !assoc.
+    rewrite <- conditional_distribution_2_eq.
+    rewrite <- e.
+    reflexivity.
+  Qed.
+
+End ConditionalDistributions.
+
+Notation "p |1" := (conditional_distribution_1 p).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/MarkovCategories/Conditionals.v:175]: It would be a good idea to put these notations into a scope, so that one has more control over which notations are in scope. Currently, whenever one imports this file, these notations are immediately in scope. However, sometimes notations might be duplicated with different meanings, and then one would like to control which meaning is used by indicating the scope of the notation.

File: UniMath/CategoryTheory/MarkovCategories/MarkovCategory.v [hunk 7]
```diff
@@ -0,0 +1,505 @@
...
+  Qed.
+End Marginals.
+
+(* We define pairing notation ⟨f,g⟩ *)
+
+Definition pairing {C : markov_category} {a x y : C} 
+                   (f : a --> x) (g : a --> y) : a --> x ⊗ y 
+    := copy a · (f #⊗ g).
+
+Notation "⟨ f , g ⟩" := (pairing f g).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/MarkovCategories/MarkovCategory.v:342]: This notation should also be put into a scope

File: UniMath/CategoryTheory/MarkovCategories/AlmostSurely.v [hunk 8]
```diff
@@ -0,0 +1,128 @@
...
+  Proposition isaprop_ase {a x y : C} (p : a --> x) (f g : x --> y) :
+      isaprop (equal_almost_surely p f g).
+  Proof. 
+    apply homset_property.
+  Qed.  
+
+End DefAlmostSurely.
+
+Arguments equal_almost_surely {C a x y} p f g /.
+Notation "f =_{ p } g" := (equal_almost_surely p f g) (at level 70).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/MarkovCategories/AlmostSurely.v:85]: This notation should be put into a scope.

File: UniMath/CategoryTheory/Categories/Quotient.v [hunk 9]
```diff
@@ -0,0 +1,158 @@
+(* We define quotients of categories under a congruence relation on morphism
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Categories/Quotient.v:1]: This file needs a better header (we forgot about this one).

File: UniMath/CategoryTheory/Categories/Quotient.v [hunk 10]
```diff
@@ -0,0 +1,158 @@
...
+
+Definition mor_cong_rel_to_eqrel
+           {C : category}
+           (eq : mor_cong_rel C)
+           {x y : C}
+           (f g : x --> y)
+  : hProp
+  := pr1 eq x y f g.
+
+Notation "f ~_{ eq } g" := (mor_cong_rel_to_eqrel eq f g) (at level 70).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Categories/Quotient.v:40]: It might be better to put this notation into the scope `cat`.
```suggestion
Notation "f ~_{ eq } g" := (mor_cong_rel_to_eqrel eq f g) (at level 70) : cat.
```

**Review by nmvdw — APPROVED** [review]
Looks good to me. I only have minor comments.

File: UniMath/CategoryTheory/MarkovCategories/Couplings.v (hunk 5 above)
Comment (damast93) [reply UniMath/CategoryTheory/MarkovCategories/Couplings.v:523]: lets keep it for now and see how it looks later

File: _CoqProject (hunk 1 above)
Comment (nmvdw) [reply _CoqProject:1]: Once this comment is resolved, we can merge this PR.

[the remark this answers is not in the document]
Comment (damast93) [reply _CoqProject]: Done (tested in vscode and coqide)
